US05175157
3-[(N-(3-(Indol-3-yl)-propyl)-hexahydro-azepin-3-yl)methyl]-7,8-methylenedioxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine-monohydrate
Prepared from 3-[(hexahydro-azepin-3-yl)-methyl]-7,8-methylenedioxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepin and 3-(3-benzenesulphonyloxy-propyl)-indole analogously to Example 1.

reactant | 3-[(hexahydro-azepin-3-yl)-methyl]-7,8-methylenedioxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepin | N1CC(CCCC1)CN1CCC2=C(CC1=O)C=C1C(=C2)OCO1 | C18H24N2O3
reactant | 3-(3-benzenesulphonyloxy-propyl)-indole | C1(=CC=CC=C1)S(=O)(=O)OCCCC1=CNC2=CC=CC=C12 | C17H17NO3S
product | 3-[(N-(3-(Indol-3-yl)-propyl)-hexahydro-azepin-3-yl)methyl]-7,8-methylenedioxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine-monohydrate | O.N1C=C(C2=CC=CC=C12)CCCN1CC(CCCC1)CN1CCC2=C(CC1=O)C=C1C(=C2)OCO1 | InChI=1S/C29H35N3O3.H2O/c33-29-16-24-15-28-27(34-20-35-28)14-22(24)10-13-32(29)19-21-6-3-4-11-31(18-21)12-5-7-23-17-30-26-9-2-1-8-25(23)26;/h1-2,8-9,14-15,17,21,30H,3-7,10-13,16,18-20H2;1H2
